US06417323B1
50 mL of Catalyst B, 40.0 g of stearyl glycidyl ether (SGE) and 22.8 g of octyl glycidyl ether (OGE) were added to 210 ml of toluene, anda vessel was closed. The polymerization was carried out at 130° C. for 24 hours with stirring. The reaction solution was added to a large amount of acetone containing a small amount of a dilute solution of hydrogen chloride. A precipitated solid was dried under reduced pressure at 80° C. for 24 hours to obtain a poly(stearyl glycidyl ether/octyl glycidyl ether) copolymer. Pale yellow solid. Yield 75%.

reactant | stearyl glycidyl ether | 40.0 g | C(C1CO1)OCCCCCCCCCCCCCCCCCC | C21H42O2
reactant | octyl glycidyl ether | 22.8 g | C(C1CO1)OCCCCCCCC | C11H22O2
reactant | toluene | 210 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | stearyl glycidyl ether octyl glycidyl ether | Yield 75% | C(C1CO1)OCCCCCCCCCCCCCCCCCC.C(C1CO1)OCCCCCCCC | InChI=1S/C21H42O2.C11H22O2/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-22-19-21-20-23-21;1-2-3-4-5-6-7-8-12-9-11-10-13-11/h21H,2-20H2,1H3;11H,2-10H2,1H3
